US04962103
trans-1-(p-Methoxybenzyloxycarbonyl)-4-t-butyldimethylsilyloxy-L-proline methyl ester (5.64 g) was dissolved in 56.4 ml of dry tetrahydrofuran. Sodium borohydride (1.01 g) and lithium iodide (3.52 g) were added thereto. The resulting mixture was refluxed for 1 hour, diluted with water, extracted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate and distilled off to obtain (2S,4R)-1-(p-methoxybenzyloxycarbonyl)-2-hydroxymethyl-4-t-butyldimethylsilyloxypyrrolidine.

reactant | trans-1-(p-Methoxybenzyloxycarbonyl)-4-t-butyldimethylsilyloxy-L-proline methyl ester | 5.64 g | COC([C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)OC)=O | C21H33NO6Si
reactant | Sodium borohydride | 1.01 g | [BH4-].[Na+]
reactant | lithium iodide | 3.52 g | [I-].[Li+]
solvent | tetrahydrofuran | 56.4 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (2S,4R)-1-(p-methoxybenzyloxycarbonyl)-2-hydroxymethyl-4-t-butyldimethylsilyloxypyrrolidine | COC1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O[Si](C)(C)C(C)(C)C)CO)C=C1 | C20H33NO5Si
